US04650688
2-Methyl-2-amino-1-propanol is dissolved in saturated aqueous NaHCO3 at room temperature. Di-tert-butyl di-carbonate is added in tert-butanol. The contents are stirred overnight and then extracted with ethyl acetate. The organic layer is dried over MgSO4 and filtered. The filtrate is evaporated to give N-Boc-2-amino-2-methyl-1-propanol.

reactant | 2-Methyl-2-amino-1-propanol | CC(CO)(C)N | C4H11NO
reactant | Di-tert-butyl di-carbonate | C(OC(C)(C)C)([O-])=O.C(OC(C)(C)C)([O-])=O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | N-Boc-2-amino-2-methyl-1-propanol | C(=O)(OC(C)(C)C)NC(CO)(C)C | C9H19NO3
